** sch_path: /foss/designs/adex_neuron/ttihp26a-adex-neuron-ncs/xschem/neuron_noahp_tb.sch
**.subckt neuron_noahp_tb
Xneuron VDD I_in I_lk I_lk vmem REQ ACK Iref GND neuron_noahp
Ithr VDD I_thr 1p
Ilk VDD I_lk 4p
Iin VDD I_in dc 0 ac 0 pulse(0 Iin_amp 0 20n 20n 1 1)
VDD1 VDD net1 1.2
Iref VDD Iref 10n
Vidd net1 GND 0
.save i(vidd)
XM26 I_thr I_thr GND GND sg13_hv_nmos w=1u l=8u ng=2 m=8
XM27 I_lk I_lk GND GND sg13_hv_nmos w=4u l=4u ng=2 m=4
XM15 Iref Iref GND GND sg13_hv_nmos w=4u l=4u ng=2 m=4
Xinv3 VDD REQ net2 GND inv
Xinv4 VDD net2 ACK GND inv
C1 I_thr GND 2p
C2 I_lk GND 2p
C3 Iref GND 2p
**** begin user architecture code



.param temp=27
.param Iin_amp=200p

.ic V(vmem)=0 V(xneuron.xref.vref)=0 V(REQ)=0 V(ACK)=0 V(CapAdap)=0

.options gmin=1e-13
.control



* ======================================================
*  Iin sweep - measure firing rate of V(REQ) vs Iin
* ======================================================
*  For each DC value of Iin a transient simulation is run.
*  Rising-edge crossings of V(REQ) through a threshold
*  are counted after a settling window and the firing
*  frequency is computed.  Results go to neuron_iin_sweep.raw
* ======================================================

* --- Sweep parameters (Amps) - edit as needed ---
let iin_start = 0
let iin_stop  = 4000e-12
let iin_step  = 200e-12

* --- Compute number of sweep points ---
let num_pts = (iin_stop - iin_start) / iin_step + 1

* --- Create a new plot to hold the accumulated results ---
setplot new
set resplot = $curplot
let iin_values   = unitvec(num_pts)
let firing_rates = unitvec(num_pts)
let sweep_idx = 0
set t_sim = 50m

* --- Main sweep loop ---
dowhile sweep_idx < num_pts

  * Compute cur_iin fresh each iteration to avoid float drift
  let cur_iin = iin_start + sweep_idx * iin_step

  echo
  echo ============================================
  echo   Sweep point: Iin = $&cur_iin A
  echo ============================================

  * Save cur_iin to a shell variable before tran changes the plot context
  set cur_iin_val = $&cur_iin

  * Set the Iin_amp parameter to the current sweep value.
  alterparam Iin_amp = $cur_iin_val
  reset

  save V(REQ)

  * Run transient analysis with adaptive time
  echo   t_sim = $t_sim
  tran 50n $t_sim

  * --- Measure firing frequency using meas tran ---
  * Skip 1st spike (startup glitch), use 2nd-4th spikes
  let t_rise2 = 0
  let t_rise3 = 0
  let t_rise4 = 0
  meas tran t_rise2 WHEN v(REQ)=0.6 RISE=2
  meas tran t_rise3 WHEN v(REQ)=0.6 RISE=3
  meas tran t_rise4 WHEN v(REQ)=0.6 RISE=4

  * Use best available data for frequency
  if t_rise4 > 0
    * 4+ spikes: use 3rd-4th ISI
    let f_rate = 1.0 / (t_rise4 - t_rise3)
  else
    if t_rise3 > 0
      * 3 spikes: use 2nd-3rd ISI
      let f_rate = 1.0 / (t_rise3 - t_rise2)
    else
      if t_rise2 > 0
        * 2 spikes: estimate rate from time to 2nd spike
        let f_rate = 1.0 / t_rise2
      else
        * No real spikes (only glitch or none)
        let f_rate = 0
      end
    end
  end

  echo   freq = $&f_rate Hz

  * --- Update t_sim for next sweep point ---
  * Need ~5 spikes worth of time, clamp to [1ms, 50ms]
  if f_rate > 0
    let t_next = 5.0 / f_rate
    if t_next < 1e-3
      let t_next = 1e-3
    end
    if t_next > 50e-3
      let t_next = 50e-3
    end
    set t_sim = $&t_next
  end

  * --- Store this point's results in the result plot ---
  set save_freq = $&f_rate
  setplot $resplot
  let iin_values[sweep_idx]   = $cur_iin_val
  let firing_rates[sweep_idx] = $save_freq
  let sweep_idx = sweep_idx + 1

end

* --- Write the result vectors to a .raw file ---
setplot $resplot
write neuron_iin_sweep.raw iin_values firing_rates

echo
echo ============================================
echo   Iin sweep complete!
echo   Results saved to:  neuron_iin_sweep.raw
echo   Vectors:
echo     iin_values   (A)  - input current
echo     firing_rates (Hz) - neuron firing rate
echo ============================================

.endc






.lib cornerMOSlv.lib mos_tt
.lib cornerMOShv.lib mos_tt

**** end user architecture code
**.ends

* expanding   symbol:  neuron_noahp.sym # of pins=9
** sym_path: /foss/designs/adex_neuron/ttihp26a-adex-neuron-ncs/xschem/neuron_noahp.sym
** sch_path: /foss/designs/adex_neuron/ttihp26a-adex-neuron-ncs/xschem/neuron_noahp.sch
.subckt neuron_noahp VDD I_in V_th V_lk Vmem REQ ACK V_ref GND
*.ipin V_ref
*.iopin GND
*.iopin VDD
*.opin REQ
*.ipin ACK
*.ipin I_in
*.ipin V_th
*.ipin V_lk
*.opin Vmem
Xinv1 VDD Vfb net1 GND inv
Xinv2 VDD net1 REQ GND inv
Xdpi1 I_in VDD V_th Vmem V_lk GND DPI
Xfb VDD Vfb Vmem GND FB_system
Xref VDD ACK Vmem REQ V_ref GND REF_system
Cmem Vmem GND 1p
.ends


* expanding   symbol:  inv.sym # of pins=4
** sym_path: /foss/designs/adex_neuron/ttihp26a-adex-neuron-ncs/xschem/inv.sym
** sch_path: /foss/designs/adex_neuron/ttihp26a-adex-neuron-ncs/xschem/inv.sch
.subckt inv VDD in out GND
*.ipin in
*.iopin VDD
*.iopin GND
*.opin out
XM1 out in VDD VDD sg13_hv_pmos w=1u l=0.5u ng=1
XM2 out in GND GND sg13_hv_nmos w=1u l=0.5u ng=1
.ends


* expanding   symbol:  DPI.sym # of pins=6
** sym_path: /foss/designs/adex_neuron/ttihp26a-adex-neuron-ncs/xschem/DPI.sym
** sch_path: /foss/designs/adex_neuron/ttihp26a-adex-neuron-ncs/xschem/DPI.sch
.subckt DPI I_in VDD V_th V_mem V_lk GND
*.opin V_mem
*.ipin V_lk
*.ipin V_th
*.ipin I_in
*.iopin VDD
*.iopin GND
XMdifl GND V_th I_in VDD sg13_hv_pmos w=4u l=2u ng=2 m=8
XMdifr V_mem V_mem I_in VDD sg13_hv_pmos w=4u l=2u ng=2 m=8
XMtau net1 V_lk GND GND sg13_hv_nmos w=4u l=4u ng=2 m=4
Vilk V_mem net1 0
.save i(vilk)
.ends


* expanding   symbol:  FB_system.sym # of pins=4
** sym_path: /foss/designs/adex_neuron/ttihp26a-adex-neuron-ncs/xschem/FB_system.sym
** sch_path: /foss/designs/adex_neuron/ttihp26a-adex-neuron-ncs/xschem/FB_system.sch
.subckt FB_system VDD out V_mem GND
*.opin out
*.iopin V_mem
*.iopin VDD
*.iopin GND
XMmirr Vmir Vmir VDD VDD sg13_hv_pmos w=4u l=2u ng=4
XMfbsw V_mem out net1 VDD sg13_hv_pmos w=1u l=0.5u ng=2
XMmirl4 net1 Vmir net2 VDD sg13_hv_pmos w=1u l=2u ng=1
XMthr out V_mem Vmir VDD sg13_hv_pmos w=1u l=2u ng=2 m=4
XMmem1 out V_mem net3 GND sg13_hv_nmos w=1u l=2u ng=1 m=2
XMmirl3 net2 Vmir net4 VDD sg13_hv_pmos w=1u l=2u ng=1
XMmirl2 net4 Vmir net5 VDD sg13_hv_pmos w=1u l=2u ng=1
XMmirl1 net5 Vmir VDD VDD sg13_hv_pmos w=1u l=2u ng=1
XMmem2 net3 V_mem net6 GND sg13_hv_nmos w=1u l=2u ng=1 m=2
XMmem3 net6 V_mem net7 GND sg13_hv_nmos w=1u l=2u ng=1 m=2
XMmem4 net7 V_mem GND GND sg13_hv_nmos w=1u l=2u ng=1 m=2
.ends


* expanding   symbol:  REF_system.sym # of pins=6
** sym_path: /foss/designs/adex_neuron/ttihp26a-adex-neuron-ncs/xschem/REF_system.sym
** sch_path: /foss/designs/adex_neuron/ttihp26a-adex-neuron-ncs/xschem/REF_system.sch
.subckt REF_system VDD ACK V_mem REQ V_ref GND
*.iopin VDD
*.iopin GND
*.ipin V_ref
*.ipin REQ
*.ipin ACK
*.ipin V_mem
Cr Vref GND 0.5p
XM10 Vref REQ net2 VDD sg13_hv_pmos w=1u l=0.5u ng=1
XM11 Vref REQ net1 GND sg13_hv_nmos w=1u l=0.5u ng=1
XM12 net2 ACK VDD VDD sg13_hv_pmos w=1u l=0.5u ng=1
XM13 V_mem Vref GND GND sg13_hv_nmos w=1u l=0.5u ng=1
XM14 net1 V_ref GND GND sg13_hv_nmos w=4u l=4u ng=2 m=4
.ends

.GLOBAL GND
.GLOBAL VDD
.end
